US07741315B2
Step 1: 11-(3-Chloro-4-fluorobenzyl)-4-pyrrolidin-1-yl-9-methoxy-2-methyl-3,4,5,6,12,13-hexahydro-2H[1,4]diazocino[2,1-a]-2,6-naphthyridine-1,8,10(11H)-trione
A mixture of 11-(3-chloro-4-fluorobenzyl)-9-methoxy-2-methyl-5,6,12,13-tetrahydro-2H[1,4]diazocino[2,1-a]-2,6-naphthyridine-1,4,8,10(3H, 1H)-tetrone (30 mg, 0.06 mmol), molecular sieves (4A), pyrrolidine (23 mg, 0.32 mmol), and acetic acid (4 mg) in dichloroethane (1 mL) was heated at 80° C. for four hrs. The mixture was cooled to room temperature, treated with sodium borohydride (12 mg, 0.19 mmol), and stirred at room temperature for 30 minutes. The product mixture was diluted with dichloromethane, washed successively with aq sodium carbonate and brine. The organic extract was dried over anhydrous magnesium sulfate, filtered, and concentrated under vacuum to provide the title compound. This material was used in the following step without further purification.

reactant | 11-(3-chloro-4-fluorobenzyl)-9-methoxy-2-methyl-5,6,12,13-tetrahydro-2H[1,4]diazocino[2,1-a]-2,6-naphthyridine-1,4,8,10(3H, 1H)-tetrone | 0.06 mmol, 30 mg | ClC=1C=C(CN2C(C3=C(C(N4C(=C3CC2)C(N(CC(CC4)=O)C)=O)=O)OC)=O)C=CC1F | C22H21ClFN3O5
reactant | pyrrolidine | 0.32 mmol, 23 mg | N1CCCC1 | C4H9N
reactant | acetic acid | 4 mg | C(C)(=O)O | C2H4O2
reactant | sodium borohydride | 0.19 mmol, 12 mg | [BH4-].[Na+]
solvent | dichloroethane | 1 mL | ClC(C)Cl | C2H4Cl2
solvent | dichloromethane | ClCCl | CH2Cl2
product | 11-(3-Chloro-4-fluorobenzyl)-4-pyrrolidin-1-yl-9-methoxy-2-methyl-3,4,5,6,12,13-hexahydro-2H[1,4]diazocino[2,1-a]-2,6-naphthyridine-1,8,10(11H)-trione | ClC=1C=C(CN2C(C3=C(C(N4C(=C3CC2)C(N(CC(CC4)N4CCCC4)C)=O)=O)OC)=O)C=CC1F | C26H30ClFN4O4
